US07947730B2
(1R/S,3R)-3-(2-Hydroxy-2,2-diphenyl-acetoxy)-1-methyl-1-(2-phenoxy-propyl)-piperidinium bromide
Hydroxy-diphenyl-acetic acid (R)-methyl-piperidin-3-yl ester (1.7 g, 0.00523 mol) and (3-bromo-propoxy)-benzene (1.2 ml, 0.00781 mol) are dissolved in acetonitrile (2 ml) and stirred at 60° C. over night. The reaction mixture is cooled to room temperature and evaporated to dryness. The residue is taken up in DCM and extracted with water. The aqueous layer is washed with DCM (3×20 ml) and evaporated to dryness. The residue is purified by flash chromatography over C18 silica gel (70 g) using a gradient of water/acetonitrile 100/0 to 0/100 over 25 minutes at 20 ml/min. The product containing fractions were combined and evaporated to yield 700 mg of the title compound as a white foam.

reactant | Hydroxy-diphenyl-acetic acid (R)-methyl-piperidin-3-yl ester | 0.00523 mol, 1.7 g | CN1C[C@@H](CCC1)OC(C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C20H23NO3
reactant | (3-bromo-propoxy)-benzene | 0.00781 mol, 1.2 ml | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (1R/S,3R)-3-(2-Hydroxy-2,2-diphenyl-acetoxy)-1-methyl-1-(2-phenoxy-propyl)-piperidinium bromide | 700 mg | [Br-].OC(C(=O)O[C@H]1C[N+](CCC1)(CC(C)OC1=CC=CC=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H34NO4.BrH/c1-23(33-26-17-10-5-11-18-26)21-30(2)20-12-19-27(22-30)34-28(31)29(32,24-13-6-3-7-14-24)25-15-8-4-9-16-25;/h3-11,13-18,23,27,32H,12,19-22H2,1-2H3;1H/q+1;/p-1/t23?,27-,30?;/m1./s1
